US06448242B1
Preparation of 1,8-bis[4-[(E,E)-5-(4-tert-butylphenyl)-2,4-pentadienoyl]-1-piperazinyl]octane dihydrochloride
Concentrated hydrochloric acid (0.050 ml; 0.60 mmol) was added to a solution of 1,8-bis[4-[(E,E)-5-(4-tert-butylphenyl)-2,4-pentadienoyl]-1-piperazinyl]octane (105 mg; 0.14 mmol) in ethanol (5 ml) and the reaction mixture was concentrated under reduced pressure. After a process of adding ethanol (10 ml) to the residue and concentrating the mixture under reduced pressure was performed twice, the resultant concentrated residue was recrystallized from methanol-diethyl ether to obtain the title compound as a colorless crystalline powder.

reactant | hydrochloric acid | 0.60 mmol, 0.050 ml | Cl | ClH
reactant | 1,8-bis[4-[(E,E)-5-(4-tert-butylphenyl)-2,4-pentadienoyl]-1-piperazinyl]octane | 0.14 mmol, 105 mg | C(C)(C)(C)C1=CC=C(C=C1)/C=C/C=C/C(=O)N1CCN(CC1)CCCCCCCCN1CCN(CC1)C(\C=C\C=C\C1=CC=C(C=C1)C(C)(C)C)=O | C46H66N4O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1,8-bis[4-[(E,E)-5-(4-tert-butylphenyl)-2,4-pentadienoyl]-1-piperazinyl]octane dihydrochloride | Cl.Cl.C(C)(C)(C)C1=CC=C(C=C1)/C=C/C=C/C(=O)N1CCN(CC1)CCCCCCCCN1CCN(CC1)C(\C=C\C=C\C1=CC=C(C=C1)C(C)(C)C)=O | InChI=1S/C46H66N4O2.2ClH/c1-45(2,3)41-25-21-39(22-26-41)17-11-13-19-43(51)49-35-31-47(32-36-49)29-15-9-7-8-10-16-30-48-33-37-50(38-34-48)44(52)20-14-12-18-40-23-27-42(28-24-40)46(4,5)6;;/h11-14,17-28H,7-10,15-16,29-38H2,1-6H3;2*1H/b17-11+,18-12+,19-13+,20-14+;;
